US04272437
trans-3-aminomethyl-4-tritylthio-2-azetidinone
To a solution of trans 3-azidomethyl-4-tritylthio-2-azetidinone (10.0 g, 47.5 mmol) in dry methanol (500 ml) was added ammonium chloride (19.0 g) and zinc powder (1.0 g) and the suspension was stirred at room temperature for 5 h. The reaction mixture was filtered and evaporated. The residue was partitioned between 1 N hydrochloric acid and benzene. The aqueous layer was basified with 1 M sodium bicarbonate and extracted with methylene chloride. The extracts were washed with brine, dried (MgSO4) and evaporated in vacuo. The crude amine crystallized from ether, 14.05 g (79%); mp 139°-9° C.; Anal. calcd for C23H22N2OCl.1/4 CH2Cl2 : C 70.56, H 5.73, N 7.08; Found: C 70.68, H 5.94, N 7.27; ir (CHCl3) νmax : 3400 and 1760 cm-1 ; 1Hmr (CDCl3) δ: 7.35 (15H, m), 5.15 (1H, m), 4.3 (1H, bs), 2.7-3.5 (3H, m) and 1.3 ppm (2H, m).

reactant | trans 3-azidomethyl-4-tritylthio-2-azetidinone | 47.5 mmol, 10.0 g | N(=[N+]=[N-])C[C@@H]1C(N[C@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H20N4OS
reactant | ammonium chloride | 19.0 g | [Cl-].[NH4+]
solvent | methanol | 500 ml | CO | CH4O
catalyst | zinc | 1.0 g | [Zn] | Zn
product | trans-3-aminomethyl-4-tritylthio-2-azetidinone | NC[C@@H]1C(N[C@H]1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H22N2OS
